US06265447B1
39.8 g (0.22 mol) of ethyl 2-cyano-3-cyclopropylbutanoic acid were refluxed for 4 hours in a mixture of in each case 150 ml of methanol, tetrahydrofuran and 2 N sodium hydroxide solution. For working-up, 200 ml of 2 N sodium hydroxide solution were added and the mixture was extracted repeatedly with diethyl ether. The aqueous phase was subsequently acidified by adding hydrochloric acid and also extracted with ether. After this organic phase had been dried and concentrated, 29 g (yield 86%) of 2-cyano-3-cyclopropylbutanoic acid were obtained.

reactant | ethyl 2-cyano-3-cyclopropylbutanoic acid | 0.22 mol, 39.8 g | C(C)C(C(=O)O)(C(C)C1CC1)C#N | C10H15NO2
reactant | methanol | 150 ml | CO | CH4O
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | sodium hydroxide | 2 N, 200 ml | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-cyano-3-cyclopropylbutanoic acid | 29 g, yield 86% | C(#N)C(C(=O)O)C(C)C1CC1 | C8H11NO2
